### PR TITLE
feat: add `BitVec.(getElem, getLsbD, getMsbD, msb)_(srem, sdiv)`

### PR DESCRIPTION
**Pull request by luisacicolini**

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2704,6 +2704,83 @@ theorem toInt_udiv_of_msb {x : BitVec w} (h : x.msb = false) (y : BitVec w) :
...
+  rfl
+
+theorem msb_srem {x y : BitVec w} :
+    (BitVec.srem x y).msb
+      = (match x.msb, y.msb with
+      | false, false => BitVec.umod x y
+      | false, true  => BitVec.umod x (.neg y)
+      | true,  false => .neg (umod (.neg x) y)
+      | true,  true  => .neg (umod (.neg x) (.neg y))).msb := by
+  rfl
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:2743]: We should drop `msb`, since there is a theorem statement one should be able to write about the sign of the result of `srem` that does not express it directly in terms of the case-split of `umod`, plus a `msb`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2704,6 +2704,83 @@ theorem toInt_udiv_of_msb {x : BitVec w} (h : x.msb = false) (y : BitVec w) :
...
+    | true,  true  => udiv (.neg x) (.neg y)).getMsbD i := by
+  rfl
+
+theorem msb_sdiv {x y : BitVec w} :
+    (BitVec.sdiv x y).msb
+      = (match x.msb, y.msb with
+    | false, false => udiv x y
+    | false, true  => .neg (udiv x (.neg y))
+    | true,  false => .neg (udiv (.neg x) y)
+    | true,  true  => udiv (.neg x) (.neg y)).msb := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:2780]: Same comment as above, this time for `sdiv`. There's a legible theorem statement to be written here, and we should find it.

**Comment by luisacicolini** [comment]
the correct lemmas now exist.
